US07598286B2
Step B: 3-bromo-7-(trifluoromethyl)-1H-indazole
To a mechanically stirred solution of 7-trifluoromethyl-indazole (3.5 g, 18.8 mmol) in 20% NaOH was added bromine (0.62 mL, 12.1 mmol) dropwise. After stirring at ambient temperature for 2 hours, the reaction mixture was cooled and acidified to pH 6-7 by careful addition of concentrated HCl. The solids formed were filtered and dried to give the title compound (2.9 g) as a white solid.

reactant | 7-trifluoromethyl-indazole | 18.8 mmol, 3.5 g | FC(C=1C=CC=C2C=NNC12)(F)F | C8H5F3N2
reactant | bromine | 12.1 mmol, 0.62 mL | BrBr | Br2
reactant | HCl | Cl | ClH
solvent | NaOH | [OH-].[Na+]
product | 3-bromo-7-(trifluoromethyl)-1H-indazole | 2.9 g | BrC1=NNC2=C(C=CC=C12)C(F)(F)F | C8H4BrF3N2
